US07259183B2
2.31 ml (2.31 mmol) of a 1M borane-THF complex solution in THF were added under nitrogen at rt to 295 mg (0.77 mmol) of 4-tert-butyl-2-chloro-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide dissolved in 4 ml THF. The reaction mixture was heated to reflux over night. At rt 7 ml 2N aqueous HCl solution were added and the reaction mixture was heated to reflux for 3 h. The reaction mixture was basified with 7 ml 2N aqueous NaOH solution and extracted twice with diethyl ether. The combined organic layers were washed with saturated aqueous NaCl solution, dried over sodium sulfate, filtered and the solvent was evaporated. The residue was purified by column chromatography (45 g silica gel; DCM/methanol 19:1) to yield 256 mg (81%) (4-tert-butyl-2-chloro-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine as a yellow oil. 1H NMR (DMSO-d6, 300 MHz): δ 7.58-7.52 (m, 5H), 7.6 (d, 1H), 7.34 (s, 1H), 7.30 (d, 1H), 3.75 (s, 2H), 2.81 (m, 4H), 1.26 (s, 1H).

reactant | 4-tert-butyl-2-chloro-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide | 0.77 mmol | C(C)(C)(C)C1=CC(=C(C(=O)NCCC2=CC(=CC=C2)C(F)(F)F)C=C1)Cl | C20H21ClF3NO
reactant | HCl | 2N, 7 ml | Cl | ClH
reactant | NaOH | 2N, 7 ml | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | (4-tert-butyl-2-chloro-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine | 256 mg, 81% | C(C)(C)(C)C1=CC(=C(CNCCC2=CC(=CC=C2)C(F)(F)F)C=C1)Cl | C20H23ClF3N
